### PR TITLE
Add Erdős Problem 1175 (triangle-free subgraph of uncountable chromatic graph)

### PR DESCRIPTION
**Pull request by henrykmichalewski**
Formalises [Erdős Problem 1175](https://www.erdosproblems.com/1175): does every graph of uncountable chromatic number contain a triangle-free subgraph of uncountable chromatic number?

## Contents

- **Main open theorem** using `chromaticCardinal` from upstream.
- **Shelah consistency variant**: the negative direction is consistent for $\kappa = \lambda = \aleph_1$.
- **Threshold reformulation** of the problem.

Assisted by Claude (Anthropic).

### CODE REVIEW

**Comment by henrykmichalewski** [comment]
Closes #1998

File: FormalConjectures/ErdosProblems/1175.lean [hunk 1]
```diff
@@ -0,0 +1,168 @@
...
+**Note on the answer**: The problem is open in ZFC. Shelah's result shows that a positive answer
+is not provable from ZFC alone (since it fails in some model). Whether a negative answer is
+consistent for all uncountable $\kappa$ is not known.
+-/
+@[category research open, AMS 5]
+theorem erdos_1175 : answer(sorry) ↔
+    ∀ (κ : Cardinal), ℵ₀ < κ →
+      ∃ (μ : Cardinal),
+        ∀ (V : Type*) (G : SimpleGraph V), G.chromaticCardinal = μ →
+          ∃ (H : G.Subgraph), H.coe.CliqueFree 3 ∧ κ ≤ H.coe.chromaticCardinal := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/1175.lean]: Does the source ask for a triangle-free subgraph with chromatic number exactly `κ`? This conclusion only requires `κ ≤ H.coe.chromaticCardinal`, which is a weaker/different formulation unless there is a reason to use at least. Could you either use equality or add a note explaining why the `≥ κ` version is intended?

File: FormalConjectures/ErdosProblems/1175.lean [hunk 2]
```diff
@@ -0,0 +1,168 @@
...
+the main question: the property "every graph with chromatic number $\aleph_1$ has a triangle-free
+subgraph with chromatic number $\aleph_1$" is not a theorem of ZFC.
+
+We formalize Shelah's result as: the instance with $\kappa = \lambda = \aleph_1$ admits a
+counterexample in some model. Since Lean operates in a fixed universe, we state this as the
+existence of a graph that *would* serve as a counterexample, leaving the model-theoretic
+wrapping as a `sorry`.
+-/
+@[category research solved, AMS 5]
+theorem erdos_1175.variants.shelah_consistency :
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/1175.lean]: Should this consistency result be stated as an outright negation in the ambient theory? The prose says Shelah proved consistency of a counterexample, not that ZFC proves this negation. Could you encode the extra model-theoretic or axiom hypothesis explicitly, or keep this as a documented consistency placeholder rather than a bare negation?

**Comment by henrykmichalewski** [comment]
Thanks for the review @PaulLez. Pushed d305709 on `add-problem-1175`: (1) replaced `κ ≤ H.coe.chromaticCardinal` with `H.coe.chromaticCardinal = κ` in the headline and threshold variant (and in the supporting `threshold_implies_exact` lemma); (2) wrapped the Shelah consistency variant as an `answer(sorry)` consistency placeholder with a docstring noting that a faithful encoding requires either an explicit forcing-extension axiom or a meta-theoretic consistency wrapper.

File: FormalConjectures/ErdosProblems/1175.lean [hunk 3]
```diff
@@ -0,0 +1,169 @@
...
+  exact zero_lt_one
+
+/-- Every graph has a triangle-free subgraph: the bottom subgraph (with no edges and
+empty vertex set) is always triangle-free (`CliqueFree 3`).
+
+This shows the existential `∃ H : G.Subgraph, H.coe.CliqueFree 3 ∧ ...` is non-vacuous:
+the ⊥ subgraph witnesses triangle-freeness (though the chromatic number condition is
+what makes the main problem hard). -/
+@[category test, AMS 5]
+example (V : Type*) (G : SimpleGraph V) : ∃ H : G.Subgraph, H.coe.CliqueFree 3 :=
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1175.lean]: instead of using `example` prefer named theorem names

File: FormalConjectures/ErdosProblems/1175.lean [hunk 4]
```diff
@@ -0,0 +1,169 @@
...
+
+The following `example` declarations demonstrate that the hypotheses and conclusions of the main
+theorem are non-vacuous. All goals are fully closed: no `sorry`. -/
+
+/-- The uncountability hypothesis `ℵ₀ < κ` is non-vacuous: `ℵ₁` is an uncountable cardinal.
+This shows the main theorem has a concrete non-trivial instance. -/
+@[category test, AMS 5]
+example : ℵ₀ < ℵ_ 1 := by
+  rw [← Cardinal.aleph_zero, Cardinal.aleph_lt_aleph]
+  exact zero_lt_one
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1175.lean]:
```suggestion
```

No need to explain what `example` section does.

also the `example` is not needed: `aleph0_lt_aleph_one` is already in mathlib

**Review by mo271 — COMMENTED** [review]
Good formalization with correct math and nice Mathlib API usage! A few issues:

1. Problem statement duplicated 4 times

The problem text appears at line 23 (verbatim quote), lines 34–36 ("Problem statement" section), lines 61–63 (erdos_1175 docstring), and paraphrased again at lines 106–109 (threshold_formulation docstring). Per project conventions, the problem should appear only once — keep the verbatim quote and remove the redundant copies. The variant docstrings should describe how they differ from the main statement, not restate it.

2. Non-standard module docstring formatting

The module docstring uses non-standard headers: **Verbatim statement (Erdős #1175, status O):**, **Source:**, **Notes:** OPEN. These should be replaced with the standard format:

*Reference:* [erdosproblems.com/1175](https://www.erdosproblems.com/1175)
The "Status", "Formalization notes", etc. sections add useful context but the metadata duplication ("Source", "Notes: OPEN") should be removed.

3. threshold_implies_exact naming

erdos_1175.threshold_implies_exact (line 156) is missing a .variants or .test prefix to match the naming pattern of the other declarations (erdos_1175.variants.shelah_consistency, erdos_1175.variants.threshold_formulation). Suggest renaming to erdos_1175.variants.threshold_implies_exact or erdos_1175.test.threshold_implies_exact.

4. Redundant test

Test 3 (line 148, (⊥ : SimpleGraph V).CliqueFree 3) is already subsumed by Test 2 (line 142), which uses ⊥ as the witness for ∃ H : G.Subgraph, H.coe.CliqueFree 3. Consider removing the redundant standalone test.

**Comment by henrykmichalewski** [comment]
@mo271 — applied all 4 issues + both inline suggestions in [`650833d`](https://github.com/henrykmichalewski/formal-conjectures/commit/650833d):

1. **Statement deduplication** — kept only the verbatim quote in the `erdos_1175` theorem docstring; removed the `## Problem statement`, `## Status`, and the bloated paraphrases in the variant docstrings.
2. **Module docstring standardised** — now just `*Reference:* [erdosproblems.com/1175](...)` plus the formalisation notes section. Dropped the `Verbatim statement` / `Source` / `Notes: OPEN` headers.
3. **Naming** — renamed `erdos_1175.threshold_implies_exact` → `erdos_1175.test.threshold_implies_exact`. The other test (formerly an `example`) is now `erdos_1175.test.exists_triangle_free_subgraph`.
4. **Redundant Test 3 removed** — `(⊥ : SimpleGraph V).CliqueFree 3` was subsumed by the triangle-free-subgraph existence test.
5. **`example` → `theorem`** — done for both remaining tests.
6. **Dropped the `aleph0_lt_aleph_one` example** — already in Mathlib.

Net diff: -64 / +17. Build green.

File: FormalConjectures/ErdosProblems/1175.lean [hunk 5]
```diff
@@ -0,0 +1,122 @@
...
+theorem erdos_1175.variants.shelah_consistency : answer(sorry) ↔
+    ¬ (∀ (V : Type*) (G : SimpleGraph V), G.chromaticCardinal = ℵ_ 1 →
+         ∃ (H : G.Subgraph), H.coe.CliqueFree 3 ∧ H.coe.chromaticCardinal = ℵ_ 1) := by
+  sorry
+
+/--
+**Threshold reformulation variant.** Replaces `chromaticCardinal = λ` in the hypothesis
+of `erdos_1175` with `λ ≤ chromaticCardinal` (a graph of chromatic number ≥ λ has a
+triangle-free subgraph of chromatic number κ). Equivalent to `erdos_1175` (take λ as
+the minimum), but more natural as a "threshold" statement.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1175.lean]:
```suggestion
**Threshold reformulation variant.** Replaces `chromaticCardinal = λ` in the hypothesis
of `erdos_1175` with `λ ≤ chromaticCardinal` (a graph of chromatic number ≥ λ has a
triangle-free subgraph of chromatic number κ). This is a strengthening of `erdos_1175`
(see `erdos_1175.test.threshold_implies_exact`).
```

File: FormalConjectures/ErdosProblems/1175.lean [hunk 6]
```diff
@@ -0,0 +1,122 @@
...
+open Cardinal SimpleGraph
+
+namespace Erdos1175
+
+/--
+Let $\kappa$ be an uncountable cardinal. Must there exist a cardinal $\lambda$ such that every
+graph with chromatic number $\lambda$ contains a triangle-free subgraph with chromatic number
+$\kappa$?
+
+Open in ZFC. Shelah proved that a negative answer is consistent when
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1175.lean]:
```suggestion
Shelah proved that a negative answer is consistent when
```

**Review by mo271 — APPROVED** [review]
Thank, LGTM now module two suggestions for docstring improvements.

**Comment by henrykmichalewski** [comment]
@mo271 — applied both suggestions in [`aed0ba9`](https://github.com/henrykmichalewski/formal-conjectures/commit/aed0ba9):
- Line 45: dropped 'Open in ZFC.' (redundant with `@[category research open]`).
- Line 84: clarified the threshold_formulation variant as a *strengthening* of `erdos_1175` (per the existing `erdos_1175.test.threshold_implies_exact` test theorem), not 'equivalent' as previously phrased.

Build green; PR was APPROVED so should be ready to land. Thanks!

**Comment by mo271** [comment]
Thanks again!
